US04795815
Allyl 3-(benzyloxycarbonyl)-7-(R,S)-amino-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate hydrochloride
Under a nitrogen atmosphere, allyl 3-(benzyloxycarbonyl)-7-(R,S)-(t-butoxycarbonylamino)-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate hydrochloride (370 mg, 0.81 mmol) was combined with a 3N hydrochloric acid solution in glacial acetic acid (15 ml) and the solution was stirred at room temperature for 25 minutes. The acid was removed in vacuo and the remaining volatiles on the resultant residue were removed by azeotropic distillation with methylene chloride (2×) to give the title salt.

reactant | allyl 3-(benzyloxycarbonyl)-7-(R,S)-(t-butoxycarbonylamino)-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate hydrochloride | 0.81 mmol, 370 mg | Cl.C(C1=CC=CC=C1)OC(=O)C1=C(N2C(C(CN2C1)NC(=O)OC(C)(C)C)=O)C(=O)OCC=C
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | Allyl 3-(benzyloxycarbonyl)-7-(R,S)-amino-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate hydrochloride | Cl.C(C1=CC=CC=C1)OC(=O)C1=C(N2C(C(CN2C1)N)=O)C(=O)OCC=C | InChI=1S/C18H19N3O5.ClH/c1-2-8-25-18(24)15-13(9-20-10-14(19)16(22)21(15)20)17(23)26-11-12-6-4-3-5-7-12;/h2-7,14H,1,8-11,19H2;1H
